US08193378B2
To a solution of 1-[4-phenyl-5-(trifluoromethyl)-2-thienyl]ethanone (1.0 g) in THF (20 mL) was added dropwise DIBAL (0.99 M solution in toluene, 9.34 mL) at −78° C. The reaction mixture was warmed to 25° C. and stirred for 3 hours and a saturated aqueous Rochelle salt solution (50 mL) was added thereto, followed by extraction with EtOAc (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=98:2 to 90:10) to obtain 1-[4-phenyl-5-(trifluoromethyl)-2-thienyl]ethanol (0.99 g) as a colorless liquid.

reactant | 1-[4-phenyl-5-(trifluoromethyl)-2-thienyl]ethanone | 1.0 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(C)=O | C13H9F3OS
reactant | DIBAL | 0.99 M, 9.34 mL | CC(C)C[AlH]CC(C)C
reactant | Rochelle salt | 50 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[4-phenyl-5-(trifluoromethyl)-2-thienyl]ethanol | 0.99 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(C)O | C13H11F3OS
